### PR TITLE
Add Erdős Problem 1180 (sums of inverses of small integers modulo p), link the formal proof

### LINKED ISSUE #6228: Erdős Problem 1180
### What is the Erdős problem?

https://www.erdosproblems.com/1180

Let $\epsilon>0$. Does there exist a constant $C_\epsilon$ such that, for all primes $p$, every residue modulo $p$ is the sum of at most $C_\epsilon$ many elements of $\{ n^{-1} : 1\leq n\leq p^\epsilon\}$, where $n^{-1}$ denotes the inverse of $n$ modulo $p$?

Status: proved (Shparlinski with $C_\epsilon \ll \epsilon^{-3}$, Glibichuk with $\ll \epsilon^{-2}$). A formal proof exists in plby/lean-proofs (`Erdos1180.erdos_1180`, Codex and GPT-5.6 Sol). Related to #540.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6228.

### What changed
Adds `FormalConjectures/ErdosProblems/1180.lean` with `Represents ε p a s` (a multiset of denominators `1 ≤ n ≤ p^ε` coprime to `p` whose inverses sum to `a` in `ZMod p`), the optimal constant `C ε` (as an `sInf`), and:
- `erdos_1180` (`research solved`, `answer(True)`): for every `ε > 0` there is `C` such that for all primes `p` every residue is a sum of at most `C` inverses of integers `≤ p^ε` (Shparlinski [Sh02], Glibichuk [Gl06]). Linked to plby/lean-proofs `Erdos1180.erdos_1180` (Codex and GPT-5.6 Sol; single Mathlib-only file, formalising Glibichuk's argument).
- `erdos_1180.variants.shparlinski` (`C_ε ≪ ε⁻³`), `glibichuk` (`C_ε ≪ ε⁻²`), `lower_bound` (`C_ε ≫ ε⁻¹`), and the open `optimal` (`C_ε ≤ ε^{-1-o(1)}`?).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos1180.erdos_1180` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby uses lists of denominators; the bridge coerces to a multiset):

<details>
<summary>Bridge</summary>

```lean
theorem erdos_1180_bridge : type_of% Erdos1180.erdos_1180 := by
  show True ↔ _
  simp only [true_iff]
  intro ε hε
  obtain ⟨C, hC⟩ := Erdos1180Plby.erdos_1180 ε hε
  refine ⟨C, fun p hp a => ?_⟩
  obtain ⟨xs, hlen, hadm, hsum⟩ := hC p hp a
  refine ⟨(xs : Multiset ℕ), by simpa using hlen, fun n hn => ?_, ?_⟩
  · obtain ⟨h0, hle, hcop⟩ := hadm n (Multiset.mem_coe.1 hn)
    exact ⟨h0, hle, hcop⟩
  · simpa [Multiset.map_coe, Multiset.sum_coe] using hsum
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1180»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1180.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1180.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
